US08026260B2
4-(acetylamino)-N-(4-amino-5-fluoro-1-phenyl-1H-pyrazol-3-yl)benzamide (Scheme 7)
To a solution of tert-butyl (3-{[4-(acetylamino)benzoyl]amino}-1-phenyl-1H-pyrazol-4-yl)carbamate (15 mg, 0.034 mmol) in methylene chloride (1 mL) and dimethylformamide (1 mL) was added selectfluor (24 mg, 0.069 mmol) and the resulting solution was stirred overnight at rt. The reaction was evaporated to dryness and purified by reverse phase LC to give the desired product as white solid. ESIMS calcd 454.18 (M++H), found 454.2 (M++H).

reactant | tert-butyl (3-{[4-(acetylamino)benzoyl]amino}-1-phenyl-1H-pyrazol-4-yl)carbamate | 0.034 mmol, 15 mg | C(C)(=O)NC1=CC=C(C(=O)NC2=NN(C=C2NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1 | C23H25N5O4
reactant | selectfluor | 0.069 mmol, 24 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(acetylamino)-N-(4-amino-5-fluoro-1-phenyl-1H-pyrazol-3-yl)benzamide | C(C)(=O)NC1=CC=C(C(=O)NC2=NN(C(=C2N)F)C2=CC=CC=C2)C=C1 | C18H16FN5O2
